US06451740B2
To ethyl 3-amino-4,4,4-trifluorocrotonate are added N,N-dimethylformamide and sodium hydride and the mixture is stirred at 0° C. Thereafter, to the reaction solution is added a mixture of ethyl [2-(2-chloro-4-fluoro-5-ethoxycarbonylaminophenoxy)phenoxy]acetate [Intermediate compound A8-23] and N,N-dimethylformamide, and the mixture is stirred at 80° C. Then reaction solution is cooled to room temperature, then, poured into a mixture of hydrochloric acid and ice water, and the deposited crystal is collected by filtration to obtain ethyl [2-{2-chloro-5-[2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]-4-fluorophenoxy}phenoxy]acetate.s

reactant | ethyl 3-amino-4,4,4-trifluorocrotonate | N\C(=C/C(=O)OCC)\C(F)(F)F | C6H8F3NO2
reactant | sodium hydride | [H-].[Na+]
reactant | ethyl [2-(2-chloro-4-fluoro-5-ethoxycarbonylaminophenoxy)phenoxy]acetate | ClC1=C(OC2=C(OCC(=O)OCC)C=CC=C2)C=C(C(=C1)F)NC(=O)OCC | C19H19ClFNO6
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | ethyl [2-{2-chloro-5-[2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]-4-fluorophenoxy}phenoxy]acetate | ClC1=C(OC2=C(OCC(=O)OCC)C=CC=C2)C=C(C(=C1)F)N1C(NC(=CC1=O)C(F)(F)F)=O | C21H15ClF4N2O6
